US06265426B1
{3-[5-(4-Methoxy-phenyl)-1H-[1,2,4]triazol-3-yl]-benzyl}-dimethyl-amine hydrochloride (1:1) (mixture of tautomers)
To a stirred ethanolic suspension of 4-methoxybenzamidine hydrochloride salt (280 mg, 1.5 mmol, 1.5 eq.) was added over 3 minutes 1.2N NaOEt in ethanol (1.7 ml, 2 eq.) and stirring was continued for 30 min. at r.t. 3-Dimethylaminomethyl-benzoic acid hydrazide (193 mg, 1 mmol) in ethanol was then added at 20° C. and the mixture heated at reflux for 24 hrs. Upon cooling the product mixture was filtered, the solvent was evaporated and the residue subjected to preparative reversed phase-HPLC purification using a YMC ODS-AQ column (20×50 mm) and a (0.1% trifluoroacetic acid) water-acetonitrile gradient (25 ml/min.). The pure fractions were concentrated and the product obtained was converted to the hydrochloride salt by addition of excess 2N HCl/ether solution. Solvent evaporation and high vacuum drying afforded the title compound (86 mg, 0.25 mmol, 25% yield) as a white foam. MS: m/e=309.4 (M+H+).

reactant | 4-methoxybenzamidine hydrochloride salt | 1.5 mmol, 280 mg, 1.5 eq. | Cl.COC1=CC=C(C(=N)N)C=C1
reactant | NaOEt | 1.2N | CC[O-].[Na+]
reactant | 3-Dimethylaminomethyl-benzoic acid hydrazide | 1 mmol, 193 mg | CN(C)CC=1C=C(C(=O)NN)C=CC1 | C10H15N3O
reactant | HCl ether | 2N | Cl.CCOCC
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 1.7 ml, 2 eq. | C(C)O | C2H6O
product | {3-[5-(4-Methoxy-phenyl)-1H-[1,2,4]triazol-3-yl]-benzyl}-dimethyl-amine hydrochloride | 0.25 mmol, 86 mg, 25% yield | Cl.COC1=CC=C(C=C1)C1=NC(=NN1)C=1C=C(CN(C)C)C=CC1 | InChI=1S/C18H20N4O.ClH/c1-22(2)12-13-5-4-6-15(11-13)18-19-17(20-21-18)14-7-9-16(23-3)10-8-14;/h4-11H,12H2,1-3H3,(H,19,20,21);1H
